US05001163
78 g of 2,3,4,5,6-pentafluorobenzylidene rhodanine were added in small portions to a stirred solution of 68 g of NaOH in 300 ml of water. The resultant clear red solution was heated to 90° C. for one hour, cooled in ice, acidified with concentrated HCl, and the cream coloured solid which was produced was filtered and washed. The crude product (59 g) was purified by sublimation to give 4,5,6,7-tetrafluorobenzothiophen-2-carboxylic acid having a melting point of 200° C.

reactant | 2,3,4,5,6-pentafluorobenzylidene rhodanine | 78 g | FC1=C(C=C2C(NC(S2)=S)=O)C(=C(C(=C1F)F)F)F | C10H2F5NOS2
reactant | NaOH | 68 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 4,5,6,7-tetrafluorobenzothiophen-2-carboxylic acid | FC1=C(C(=C(C2=C1C=C(S2)C(=O)O)F)F)F | C9H2F4O2S
